US06432993B1
(20-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(2-phenylphenoxy)phenyl}-N-methylcarbamate
In a similar manner to that described in Example (2-1), a reaction was carried out using t-butyl N-[2-amino-5-(2-phenylphenoxy)phenyl]-N-methylcarbamate (1.60 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (1.26 g), diethyl cyanophosphonate (0.73 g), triethylamine (0.45 g) and anhydrous tetrahydrofuran (20 ml) and the reaction mixture was purified to give the desired product (2.33 g).

reactant | t-butyl N-[2-amino-5-(2-phenylphenoxy)phenyl]-N-methylcarbamate | 1.60 g | NC1=C(C=C(C=C1)OC1=C(C=CC=C1)C1=CC=CC=C1)N(C(OC(C)(C)C)=O)C | C24H26N2O3
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 1.26 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 0.73 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.45 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(2-phenylphenoxy)phenyl}-N-methylcarbamate | 2.33 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=C(C=CC=C2)C2=CC=CC=C2)N(C(OC(C)(C)C)=O)C)C=C1 | C36H35N3O7S
